US07214665B2
5-[6-Amino-2-(1-hydroxy-3-methyl-cyclohexylethynyl)-purin-9-yl]-3,4-dihydroxytetrahydrofuran-2-carboxylic acid ethylamide (JR3179)
The reaction of 1-Ethynyl-3-methyl-cyclohexanol (JR3149B) (100 mg, 0.72 mmol) with 2-iodo-NECA (25 mg, 0.06 mmol) under the general coupling conditions gave JR3179 (15.0 mg, 59%) as a white solid after purification by a silica plug and RP-HPLC. 1H NMR (CD3OD-d4) δ 8.49 (s, 1H), 6.06 (d, J=6.9 Hz, 1H), 4.75 (dd, J=6.4 Hz, J=4.9 Hz, 1H), 4.46 (d, J=1.9 Hz, 1H), 4.34 (dd, J=4.9 Hz, J=2.1 Hz, 1H), 3.42 (m, 2H), 2.09 (d, J=12.3 Hz, 2H), 1.73 (m, 4H), 1.46 (m, 1H), 1.23 (m, 1H), 1.169 (t, J=7.1 Hz, 3H), 0.95 (d, J=6.2 Hz, 3H), 0.89 (m, 1H). 13C NMR (CD3OD-d4) δ. APCI m/z (rel intensity) 445.3 (MH+, 100), 427.4(40), 254.4(4).

reactant | 1-Ethynyl-3-methyl-cyclohexanol | 0.72 mmol, 100 mg | C(#C)C1(CC(CCC1)C)O | C9H14O
reactant | 2-iodo-NECA | 0.06 mmol, 25 mg | CCNC(=O)[C@@H]1[C@@H](C([C@@H](O1)N2C=NC3=C2N=C(N=C3N)I)O)O | C12H15IN6O4
product | 5-[6-Amino-2-(1-hydroxy-3-methyl-cyclohexylethynyl)-purin-9-yl]-3,4-dihydroxytetrahydrofuran-2-carboxylic acid ethylamide | C(C)NC(=O)C1OC(C(C1O)O)N1C2=NC(=NC(=C2N=C1)N)C#CC1(CC(CCC1)C)O | C21H28N6O5
